US04829067
1.46 g of 5-chloro-2-phenylbenzofuran-7-carboxylic acid are dissolved in a mixture of 15 ml of ethyleneglycol monomethylethers and 15 ml of methanol. 500 mg of 10% palladium-carbon and 1.6 g of ammonium formate are added to the solution and the solution is heated at 40° C. for 1.5 hours. The reaction mixture is filtered and the filtrate is concentrated under reduced pressure. The residue is dissolved in ethyl acetate. The solution is washed successively with 10% hydrochloric acid and water, dried and evaporated to remove solvent to give 2-phenylbenzofuran-7-carboxylic acid.

reactant | 5-chloro-2-phenylbenzofuran-7-carboxylic acid | 1.46 g | ClC=1C=C(C2=C(C=C(O2)C2=CC=CC=C2)C1)C(=O)O | C15H9ClO3
reactant | ammonium formate | 1.6 g | C(=O)[O-].[NH4+]
solvent | methanol | 15 ml | CO | CH4O
catalyst | palladium-carbon | 500 mg | [C].[Pd]
product | 2-phenylbenzofuran-7-carboxylic acid | C1(=CC=CC=C1)C=1OC2=C(C1)C=CC=C2C(=O)O | C15H10O3
